* Cuk Converter Netlist (5.png)
* 节点定义: 1:Vin_pos, 2:L1_M1_C1, 3:C1_D1_L2, 4:Vout_neg, 0:GND

** 输入部分 **
Vin 1 0 DC 12V          ; 假设输入 12V

** 功率转换级 **
L1 1 2 1mH              ; 输入电感
M1 2 gate 0 0 NMOS      ; 开关管 (MOSFET)
C1 2 3 10uF             ; 耦合电容
D1 0 3 MyDiode          ; 续流二极管 (阳极接地，阴极接节点3)

** 输出滤波级 **
L2 3 4 1mH              ; 输出电感
C2 4 0 100uF            ; 输出电容
Rload 4 0 10            ; 负载电阻

** 模型与控制指令 **
.model MyDiode D        ; 基础二极管模型
.model NMOS NMOS        ; 基础 NMOS 模型
V_gate gate 0 PULSE(0 10 0 1n 1n 10u 20u) ; 50kHz PWM 驱动信号
.tran 1n 20m            ; 瞬态分析 20ms
.end