* Netlist for test_35.net

* Components:
D1 1 4 diode
M1 3 p1 1 1 mosfet
D2 3 0 diode
C1 11 1 100u
D3 9 10 diode
L1 7 0 10u
X1 7 0 
L2 8 10 10u
L3 9 6 10u
D4 10 9 diode
D5 7 diode
M2 11 p2 4 4 mosfet

* Drivers:
Vdrv1 p1 1 PULSE(20 0 0 0 0 3u 10u)
Vdrv2 p2 4 PULSE(20 0 0 0 0 3u 10u)

* Models:
.model mosfet NMOS(Kp=60 Vto=4.5)
.model diode D

.tran 100u

.end
